US07148236B2
To an ice bath cooled stirred slurry of 2-hydroxyquinoline (30.5 g, 0.210 mol) in dichloromethane (300 cm3) was added chlorosulphonic acid (70 cm3, 1.05 mol) in 4 equal sized batches. This was left to stir at room temperature for 2 days then slowly poured onto crushed ice. Large amount of a white solid formed in the lower chlorinated layer. This was filtered off and dried in vacua to yield 2-Oxo-1,2-dihydro-quinoline-6-sulfonyl chloride as a dry white solid (36.3 g); δH (300 MHz; D6 DMSO) 6.51–6.59 (1H, m, 1×Ar—H), 7.29–7.34 (1H, m, Ar—H), 7.71–7.79 (1H, m, Ar—H), 7.90–7.96 (1H, m, Ar—H) and 8.00–8.06 (1H, m, Ar—H); LCMS retention time ˜3.43 min, m/z (FIANEG) 241.9 [Cl35(M)−, 100%] and 244.0 [Cl37(M)−, 33%]. NMR and LCMS showed that this material contained some starting material as a minor impurity but no further purification was performed.

reactant | 2-hydroxyquinoline | 0.210 mol, 30.5 g | OC1=NC2=CC=CC=C2C=C1 | C9H7NO
reactant | chlorosulphonic acid | 1.05 mol, 70 cm3 | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 300 cm3 | ClCCl | CH2Cl2
product | 2-Oxo-1,2-dihydro-quinoline-6-sulfonyl chloride | 36.3 g | O=C1NC2=CC=C(C=C2C=C1)S(=O)(=O)Cl | C9H6ClNO3S
